US04670046
2-(4-Chloro-2-fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (3 g) was dissolved in dimethylformamide (100 ml), and anhydrous potassium carbonate (0.8 g) was added tereto. To the resultant mixture was added methyl bromoacetate (1.8 g), and the mixture was heated at 70°-80° C. for 3 hours. After being allowed to cool, water was added to the mixture, which was then extracted with ether, and the extract was washed with water, dried and concentrated. The residue was purified by silica gel column chromatography to give 1.3 g of 2-(4-chloro-2-fluoro-5-methoxycarbonylmethoxyphenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (Compound No. 1). M.P., 98°-99.5° C.

reactant | 2-(4-Chloro-2-fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 3 g | ClC1=CC(=C(C=C1O)N1C(C=2CCCCC2C1=O)=O)F | C14H11ClFNO3
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 1.8 g | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4-chloro-2-fluoro-5-methoxycarbonylmethoxyphenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 1.3 g | ClC1=CC(=C(C=C1OCC(=O)OC)N1C(C=2CCCCC2C1=O)=O)F | C17H15ClFNO5
